US07871998B2
1-[(N-{[4-((2R,3R)-1-(4-Fluorophenyl)-3-{[2-(4-fluorophenyl)-2-hydroxyethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl)amino]cyclopentanecarboxylic acid
N-{[4-((2R,3R)-1-(4-Fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycine (0.015 g, 0.028 mmol), NMM (0.012 ml, 0.109 mmol) and TBTU (0.011 g, 0.034 mmol) were dissolved in DMF (2 ml) at 30° C. After 30 min 1-amino-1-cyclopentanecarboxylic acid (0.004 g, 0.030 mmol, 97%) was added and the mixture was stirred at 30° C. for 1 h. The reaction was quenched with water (0.2 ml) and the mixture was diluted with MeOH (2 ml). NaBH4 (0.015 g, 0.397 mmol) was added and the mixture was stirred for 10 min. Ammonium acetate buffer (0.1M, 3 ml) was added and most of the methanol was removed under reduced pressure. The remaining solution was purified by preparative HPLC, using a gradient of 20-50% MeCN in 0.1M ammonium acetate buffer as eluent. After freeze-drying, the title compound (0.009 g, 49% yield) was obtained as a white solid. M/z: 654.0. 1H NR (DMSO, 400 M/z): δ 1.56-1.66 (m, 4H), 1.78-1.87 (m, 2H), 1.97-2.07 (m, 2H), 2.84-2.94 (m, 2H), 3.74 (d, 2H), 4.24-4.29 (m, 1H), 4.51 (s, 2H), 4.68-4.76 (m, 1H), 5.02-5.07 (m, 1H), 6.92-7.00 (m, 2H), 7.05-7.26 (m, 6H), 7.29-7.39 (m, 4H), 8.09-8.15 (m, 2H).

reactant | N-{[4-((2R,3R)-1-(4-Fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycine | 0.028 mmol, 0.015 g | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(=O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)NCC(=O)O)C=C1 | C27H22F2N2O6S
reactant | NMM | 0.109 mmol, 0.012 ml | CN1CCOCC1 | C5H11NO
reactant | TBTU | 0.034 mmol, 0.011 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 1-amino-1-cyclopentanecarboxylic acid | 0.030 mmol, 0.004 g | NC1(CCCC1)C(=O)O | C6H11NO2
reactant | NaBH4 | 0.397 mmol, 0.015 g | [BH4-].[Na+]
reactant | Ammonium acetate | 0.1M, 3 ml | C(C)(=O)[O-].[NH4+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
product | 1-[(N-{[4-((2R,3R)-1-(4-Fluorophenyl)-3-{[2-(4-fluorophenyl)-2-hydroxyethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl)amino]cyclopentanecarboxylic acid | 0.009 g, 49% yield | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)NCC(=O)NC2(CCCC2)C(=O)O)C=C1 | C33H33F2N3O7S
